US05663200
45d) 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-[(3,4-dimethoxyphenyl)methyl]hexanoic acid
In analogy with Example 44d), 778 mg of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-[(3,4-dimethoxyphenyl)methyl]dihydrofuran-2-(3H)-one in 27.67 ml of dimethoxyethane and 13.91 ml of water are hydrolysed with 6.83 ml of 1M lithium hydroxide solution to give the title compound, which is subjected directly to further processing. TLC Rf (C)=0.07.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-[(3,4-dimethoxyphenyl)methyl]dihydrofuran-2-(3H)-one | 778 mg | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC(=C(C=C1)OC)OC | C26H33NO6
reactant | lithium hydroxide | 1M, 6.83 ml | [OH-].[Li+]
solvent | dimethoxyethane | 27.67 ml | C(OC)COC | C4H10O2
solvent | water | 13.91 ml | O | H2O
product | 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-[(3,4-dimethoxyphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC(=C(C=C1)OC)OC)O)CC1=CC=CC=C1 | C26H35NO7
